US06309836B1
Synthesizing 5′-O-FMOC-thymidine
Thymidine (10 mmol) was dried by coevaporation with dry pyridine (2×30 ml), re-dissolved in dry pyridine (50 ml) and cooled using an acetone/carbon dioxide bath to a temperature of −20° C. The thymidine solution was magnetically stirred and a dichloromethane solution of FMOC-Cl (12 mmol, 1.2 eq. in 20 ml DCM) was added over a period of 60 minutes. The reaction mixture was warmed to room temperature and stirred for additional 60 minutes. The reaction mixture was partitioned between saturated sodium hydrogen carbonate (250 ml) and dichloromethane (3×100 ml). The organic phase was saved, combined, evaporated and dried by coevaporation with toluene (2×50 ml) forming an oily residue. A pure product was crystallized from the oily residue using dichloromethane (30 ml) and benzene (50 ml) as solvent. Yield 76%—white crystals.

reactant | Thymidine | 10 mmol | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | FMOC-Cl | 12 mmol, 20 ml, 1.2 eq. | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5′-O-FMOC-thymidine | Yield 76% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C25H24N2O7
